US05858995
A solution of 5,7-diamino-2,3-dimethylbenzo[b]furan (970 mg), di-tert-butyl dicarbonate (2.0 g) and triethylamine (668 mg) in dichloromethane was stirred at ambient temperature for 8 hours. The reaction mixture was evaporated in vacuo and the residue was purified by column chromatography on silica gel. The obtained oil was crystallized from a mixture of diethyl ether and n-hexane to give 7-amino-5-(tert-butoxycarbonylamino)-2,3-dimethylbenzo[b]furan (1.10 g).

reactant | 5,7-diamino-2,3-dimethylbenzo[b]furan | 970 mg | NC1=CC2=C(OC(=C2C)C)C(=C1)N | C10H12N2O
reactant | di-tert-butyl dicarbonate | 2.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 668 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-amino-5-(tert-butoxycarbonylamino)-2,3-dimethylbenzo[b]furan | 1.10 g | NC1=CC(=CC2=C1OC(=C2C)C)NC(=O)OC(C)(C)C | C15H20N2O3
